US04970218
N-(3-Fluoro-4-pyridinyl)-2-methyl-1H-indol-1-amine
The title compound was prepared from 2-methyl-1H-indol-1-amine and 4-chloro-3-fluoropyridine hydrochloride in 1-methyl-2-pyrrolidone for 1 hour in substantially the same manner as in Example 1, m.p. 157°-158° C.

reactant | 2-methyl-1H-indol-1-amine | CC=1N(C2=CC=CC=C2C1)N | C9H10N2
reactant | 4-chloro-3-fluoropyridine hydrochloride | Cl.ClC1=C(C=NC=C1)F
solvent | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | N-(3-Fluoro-4-pyridinyl)-2-methyl-1H-indol-1-amine | FC=1C=NC=CC1NN1C(=CC2=CC=CC=C12)C | C14H12FN3
